US03951999
3-(4-Chlorophenyl)5-ethyl-1,2-benzisoxazole
4'-Chloro-5-ethyl-2-hydroxybenzophenone-oxime (22.0g) was dissolved in hot acetic anhydride (45ml) and immediately cooled, causing the oxime mono-acetate to crystallise. This was filtered and dried (19.7g) m.p. 105°C. The oxime mono-acetate (19.0g) and sodium carbonate (13.3g) were heated together in triglyme, under reflux, for 30 minutes. On cooling, the mixture was poured into water (1.0l.) this was extracted with ether (3×250ml). The combined ether extracts were washed with water (3×250ml) and evaporated to dryness to give a yellow oil which crystallised at room temperature (16.4G). A sample (3.0g) this solid was recrystallised from methanol/water to give a white solid (1.5g) m.p. 42°-45°C

reactant | 4'-Chloro-5-ethyl-2-hydroxybenzophenone-oxime | 22.0g | ClC1=CC=C(C=C1)C(C1=C(C=CC(=C1)CC)O)=NO | C15H14ClNO2
solvent | acetic anhydride | 45ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-Chlorophenyl)5-ethyl-1,2-benzisoxazole | 1.5g | ClC1=CC=C(C=C1)C1=NOC2=C1C=C(C=C2)CC | C15H12ClNO
